US07232819B2
Step 2: N-(4-fluorobenzyl)-5,6-dihydroxy-2-thien-2-ylpyrimidine-4-carboxamide (A-3)
Methyl 5,6-dihydroxy-2-thien-2-ylpyrimidine-4-carboxylate (A-2) was dissolved in DMF and 2.0 eq. of 4-fluorobenzylamine were added to the stirred solution. Reaction mixture was left overnight at 90° C. After cooling to room temperature 1 N HCl was added and a solid precipitated from the mixture. This solid was collected by filtration, washed with ethyl ether and dried under vacuum to afford the compound (A-3).

reactant | Methyl 5,6-dihydroxy-2-thien-2-ylpyrimidine-4-carboxylate | OC=1C(=NC(=NC1O)C=1SC=CC1)C(=O)OC | C10H8N2O4S
reactant | 4-fluorobenzylamine | 2.0 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-fluorobenzyl)-5,6-dihydroxy-2-thien-2-ylpyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=NC(=C2O)O)C=2SC=CC2)C=C1 | C16H12FN3O3S
